US06500863B1
N-[2-(morpholinyl)ethyl]-3-amino-6-chloro-2-hydroxybenzenesulfonamide
Following the general hydrogenation procedure outlined in example 15, crude N-[2-(morpholinyl)ethyl]-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide (300 mg) was reduced with hydrogen and 10% Pd/C (80 mg) to form the crude product (300 mg) which was carried onto the urea step without purification. EI-MS (m/z) 338.93, 340.98 (M+).

reactant | N-[2-(morpholinyl)ethyl]-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 300 mg | N1(CCOCC1)CCNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C12H16ClN3O6S
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 80 mg | [Pd] | Pd
product | N-[2-(morpholinyl)ethyl]-3-amino-6-chloro-2-hydroxybenzenesulfonamide | 300 mg | N1(CCOCC1)CCNS(=O)(=O)C1=C(C(=CC=C1Cl)N)O | C12H18ClN3O4S
